Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Induction of labor for pre-eclampsia
 
Major Surgical or Invasive Procedure:
primary cesarean section

 
History of Present Illness:
___ yo G1P0 @ ___ with IVF di/di twins presents for IOL due to 
mild PEC. 24hr urine w/ 384mg protein, Pr/CXr 0.3.  BPs 
130s-140s/90s, no sxs PEC or labor.

 
Past Medical History:
PNC:
- ___ ___ by US
- Labs: A neg/Ab neg/RI/GBS pos - pending sensitivity
- Glucose screening: neg 2 hr GTT
- Genetics screening:CF/Jewish panel/Fragile x neg, ERA neg x2
- US: FFS wnlx2
Issues: 
-IVF donor egg/donor sperm pregnancy d/t premature ovarian
failure 
-subchorionic hematoma with vaginal bleeding at 8 wks
-Rh neg - s/p Rhogam, most recent ___
-EFW ___ A 2468g 30%, B2604g 48%, vtx/breech

PObHx: G1, IVF donor sperm/donor egg (___)

PGynHx:
- hx of abnl Pap, repeat nl; no history of LEEP or other 
cervical
procedure; hx of 
- lichen sclerosis - dx'd ___ - stable in pregnancy
- hx of premature ovarian failure

PMHx: as stated in gyn hx; hx of depression and anxiety;
hypothyroidism, pituitary microadenoma

PSHx: wisdom tooth extraction

 
Social History:
Denies ___ same-sex relationship, presents with partner, both 
lawyers.

 
Physical Exam:
Exam on admission:
VS: T 97.8 HR 74 BP 131/94, 137/96
Gen: NAD
Abd: non tender
Ext: Nontender

 
Pertinent Results:
___ 03:20PM BLOOD WBC-5.9# RBC-2.94* Hgb-8.7* Hct-26.6* 
MCV-91 MCH-29.6 MCHC-32.6 RDW-14.5 Plt ___
___ 05:58AM BLOOD WBC-14.1*# RBC-3.61* Hgb-10.8* Hct-32.0* 
MCV-89 MCH-29.9 MCHC-33.8 RDW-13.9 Plt ___
___ 01:47PM BLOOD WBC-7.1 RBC-3.78* Hgb-11.2* Hct-33.2* 
MCV-88 MCH-29.5 MCHC-33.6 RDW-13.8 Plt ___
___ 11:26AM BLOOD WBC-8.0 RBC-3.84* Hgb-11.5* Hct-34.1* 
MCV-89 MCH-29.9 MCHC-33.6 RDW-14.3 Plt ___
___ 01:47PM BLOOD ___ PTT-25.8 ___
___ 01:47PM BLOOD ___
___ 03:20PM BLOOD Glucose-126* UreaN-8 Creat-0.7 Na-141 
K-4.0 Cl-109* HCO3-29 AnGap-7*
___ 05:58AM BLOOD Glucose-74 UreaN-7 Creat-0.8 Na-136 K-4.1 
Cl-107 HCO3-23 AnGap-10
___ 03:20PM BLOOD AST-38
___ 05:58AM BLOOD ALT-30 AST-51*
___ 01:47PM BLOOD ALT-22
___ 11:26AM BLOOD ALT-22
___ 03:20PM BLOOD UricAcd-4.5
___ 05:58AM BLOOD UricAcd-5.9*
___ 01:47PM BLOOD UricAcd-5.5
___ 11:26AM BLOOD UricAcd-5.7
 
Brief Hospital Course:
Ms. ___ underwent induction of labor for mild pre-eclampsia 
at 36+6 weeks gestational age for IVF di-di twins.  She was 
given two cytotec followed by pitocin but failed to make any 
cervical change.  Given this she underwent primary low 
transverse cesarean section.  
.
After delivery, she was started on magnesium sulfate therapy for 
seizure prophylaxis, which she continued x24 hours post-partum.  
Post-partum her blood pressures increased above 155/105 and she 
was initially started on labetalol.  This was titrated up to 600 
PO TID but her blood pressures remained high. She remained 
asymptomatic during this time. Nifedipine 30 CR daily was then 
added with good blood pressure control.  Due to the difficulty 
controlling her blood pressure, she remained in the hospital for 
a total of 7 days post-operatively.  She was discharged home on 
POD7 in good condition with follow-up. 
 
Medications on Admission:
PNV, levoxyl 100 mcg daily

 
Discharge Medications:
1. Percocet ___ mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain for 2 weeks.
Disp:*40 Tablet(s)* Refills:*0*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain for 4 weeks.
Disp:*40 Tablet(s)* Refills:*1*
3. labetalol 300 mg Tablet Sig: Two (2) Tablet PO three times a 
day for 4 weeks.
Disp:*168 Tablet(s)* Refills:*2*
4. Colace 100 mg Capsule Sig: One (1) Capsule PO three times a 
day as needed for constipation for 4 weeks.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
preterm cesarean delivery of 36 wk male and female twins

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
routine PP/post-op instructions
 
Followup Instructions:
___